US08729078B2
To a solution of 4-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (136 mg, 0.24 mmol) in 5 mL of dioxane and 5 mL of water was added NaOH (40 mg) and the reaction mixture was stirred at room temperature for 20 h. The mixture was concentrated under reduced pressure. The residue was dissolved in 8 mL of water, and acidified with 1 N HCl to pH 3-4. The mixture was extracted with ethyl acetate (5 mL×3). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure to give 4-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrole-2-carboxylic acid (99 mg, yield 100%). LC-MS calcd for C24H23N3O4 (m/e) 417.17, obsd 418 [M+1]+.

reactant | 4-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.24 mmol, 136 mg | COC(=O)C=1N(C=C(C1)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)COC(C)=O)C(=O)OC(C)(C)C | C32H35N3O7
reactant | NaOH | 40 mg | [OH-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 4-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrole-2-carboxylic acid | 99 mg, yield 100% | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)C=1C=C(NC1)C(=O)O)CO | C24H23N3O4
